US06949571B2
3-(2-Cyanophenyl)-5-(2-diethylaminomethylthiophen-3-yl)-1-phenyl-1,2-dihydropyridin-2-one
A solution of 20 mg of 3-(2-cyanophenyl)-5-(2-formylthiophen-3-yl)-1-phenyl-1,2-dihydropyridin-2-one, 0.1 ml of a 2M solution of diethylamine in tetrahydrofuran and 0.1 ml acetic acid in 2 ml of tetrahydrofuran was stirred at room temperature for 15 minutes, 20 mg of sodium triacetoxyborohydride were added and the mixture was stirred for 3 hours more. A 2N aqueous solution of sodium hydroxide was added thereto, the mixture was extracted with ethyl acetate and the organic layer was washed with water and a saturated saline solution and dried over magnesium sulfate. The solvent was concentrated in vacuo and the residue was purified by an NH silica gel column chromatography to give 15 mg of the title compound as white powder.

reactant | 3-(2-cyanophenyl)-5-(2-formylthiophen-3-yl)-1-phenyl-1,2-dihydropyridin-2-one | 20 mg | C(#N)C1=C(C=CC=C1)C=1C(N(C=C(C1)C1=C(SC=C1)C=O)C1=CC=CC=C1)=O | C23H14N2O2S
reactant | diethylamine | C(C)NCC | C4H11N
reactant | sodium triacetoxyborohydride | 20 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | acetic acid | 0.1 ml | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 3-(2-Cyanophenyl)-5-(2-diethylaminomethylthiophen-3-yl)-1-phenyl-1,2-dihydropyridin-2-one | 15 mg | C(#N)C1=C(C=CC=C1)C=1C(N(C=C(C1)C1=C(SC=C1)CN(CC)CC)C1=CC=CC=C1)=O | C27H25N3OS
